US06593330B2
Step 1: 2-Chloro-6-{[3-(1H-pyrrol-1-yl)-2-thienyl]methoxy}pyrazine
The title compound was prepared according to the procedure of example 50, step 1, starting from 3-(pyrrol-1-yl)thiophene-2-methanol (2.5 g, 14 mmol), K-t-BuO (1.43 g, 12.7 mmol) and 2,6-dichloropyrazine (1.73 g, 11.6 mmol). The yield of the title compound was 3.05 g (90%) and was obtained as an oil. Anal. (C13H10ClN3OS) C, H, N.

reactant | 3-(pyrrol-1-yl)thiophene-2-methanol | 14 mmol, 2.5 g | N1(C=CC=C1)C1=C(SC=C1)CO | C9H9NOS
reactant | 2,6-dichloropyrazine | 11.6 mmol, 1.73 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
product | 2-Chloro-6-{[3-(1H-pyrrol-1-yl)-2-thienyl]methoxy}pyrazine | ClC1=NC(=CN=C1)OCC=1SC=CC1N1C=CC=C1 | C13H10ClN3OS
